US08134013B2
5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid morpholin-4-ylamide
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (29 mg, 0.1 mmol) in dimethyl sulfoxide (4.0 mL) was heated with 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid morpholin-4-ylamide (27 mg, 0.1 mmol) prepared in Reference Synthetic Example 11 at 100° C. for 20 hours and allowed to cool to room temperature 2 mL of water was added, and the precipitated solid was collected by filtration, washed with chloroform and dried Synthesis was carried out in the same manner as in Reference Synthetic Example by using to give 40 mg of the desired product (yield 73%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.1 mmol, 29 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid morpholin-4-ylamide | 0.1 mmol, 27 mg | N1(CCOCC1)NC(=O)C=1SC(=CC1)C(=O)NN | C10H14N4O3S
reactant | water | 2 mL | O | H2O
solvent | dimethyl sulfoxide | 4.0 mL | CS(=O)C | C2H6OS
product | 5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid morpholin-4-ylamide | 40 mg, yield 73% | N1(CCOCC1)NC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C22H20Cl2N4O4S2
